US04416884
A mixture of 1.6 g of 8,9-dichloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 3.2 g of 1-propargylpiperazine and 25 ml of HMPTA was heated with stirring at 160° C. for 5 hours under atmosphere of argon. After completion of the reaction, the solvent was removed by distillation and the residue was washed with water. The residue was dissolved in 100 ml of water and insoluble substances were removed by filtration. The aqueous fraction was extracted with 200 ml of chloroform and the chloroform fraction was dried over anhydrous sodium sulfate. After concentration, the concentrate was purified through a silica gel column chromatography (silica gel: Wako C-200, a trade name for a product of Wako Junyako Co., Ltd.; eluent: chloroform-methanol (9:1 by volume)) to obtain 1.2 g of 8-[4-(2-propynyl)-1-piperazinyl]-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid having a melting point of 211° to 213° C.

reactant | 8,9-dichloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.6 g | ClC1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C14H11Cl2NO3
reactant | 1-propargylpiperazine | 3.2 g | C(C#C)N1CCNCC1 | C7H12N2
solvent | HMPTA | 25 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 8-[4-(2-propynyl)-1-piperazinyl]-9-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 1.2 g | C(C#C)N1CCN(CC1)C1=C(C=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O)Cl | C21H22ClN3O3
